data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_561965_1,[C:1](/[C:4](=[C:3](\[C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[O:8][H:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([N:6]([H:10])[H:11])[C:3]([O:8][H:9])=[C:5]([C:2]([H:15])([H:16])[H:17])[C:7]1([H:18])[H:19])([H:12])([H:13])[H:14],36.50041999994329
MR_276532_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C:2]([H:13])([H:14])[C:4]2([N:5]([H:10])[H:11])[N:7]=[C:6]([H:12])[N:8]12>>[C:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C:2]([H:13])([H:14])[C:4]([N:5]([H:10])[H:11])=[N:7][C:6]([H:12])=[N:8]1,9.709934999989542
MR_422104_1,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])[O:6][H:8])=[O:7])([N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[O:6][H:8])([N:5]([H:11])[H:12])([H:13])[H:14],61.78239499996039
MR_122760_1,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:6]\[H:9])([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[N:6]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:9])([H:10])[H:11],71.99997750002368
MR_230984_0,[N:1]([C:2]([N:3]([H:8])[H:9])=[C:5]([H:11])[H:12])([C:4](=[C:6]([H:13])[H:14])[H:10])[H:7]>>[N:1](=[C:2](\[N:3]([H:8])[H:9])[C:5]([C:4](=[C:6]([H:13])[H:14])[H:10])([H:11])[H:12])\[H:7],62.93636750000744
MR_309665_1,[C:1](/[C:6](=[C:2]([N:3]([H:9])[H:10])/[C:5](=[N:7]\[C:4](=[O:8])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:6]([C@:2]1([N:3]([H:9])[H:10])[C:5]([H:12])[N:7]1)([C:4](=[O:8])[H:11])[H:13])([H:14])([H:15])[H:16],51.40542750001416
MR_584649_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:9])[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:7](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]\[O:5][H:8])[O:6][H:9])([H:10])([H:11])[H:12],64.60426250000538
MR_435618_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[O:5][H:7])([N:3]([H:9])[H:10])[H:8]>>[N:1]1([H:8])[C:2]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[N:6]1[O:5][H:7],72.44738499999983
MR_37173_1,[C:1](/[C:2](=[C:3](/[C:4](=[C:5]([H:13])[H:14])[H:9])[H:8])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C@@:2]1([O:6][H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],42.96492500002984
MR_410389_2,[C:1]([C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])/[N:8]=[C:6](/[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[N:8][C:6]([O:7][H:9])([H:12])[C:4]1([C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],45.71839499999783
MR_520912_2,[C:1](/[C:3]([N:4]([H:11])[H:12])=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])(/[C:5](=[N:8]/[H:13])[H:14])([O:7][H:9])[H:10]>>[C:1](=[C:3](\[N:4]([H:11])[H:12])[C:6]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[N:8]/[H:13])[H:14])[H:15])(\[O:7][H:9])[H:10],72.82639500000599
MR_57419_0,[C@:1]([C:3]([H:15])([H:16])[H:17])([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])(/[C:6](=[C:7](/[C:4]([H:18])([H:19])[H:20])[H:11])[H:10])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:6](\[C@:7]([C:4]([H:18])([H:19])[H:20])([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])[H:11])[H:10])[H:9],61.85204749996288
MR_648819_0,[N:1]([C:2]([O:5][N:3]([H:8])[H:9])=[O:6])([N:4]([H:10])[H:11])[H:7]>>[N:1]([N:4]([H:10])[H:11])([O:5][C:2]([N:3]([H:8])[H:9])=[O:6])[H:7],65.15897249999597
MR_74598_0,[C:1](\[C:2]([C:3]([H:15])([H:16])[H:17])([C:5]([C:4]([H:18])([H:19])[H:20])([O:7][H:9])[N:8]([H:12])[H:14])[H:11])(=[N:6]/[H:13])[H:10]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])(/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:14])[H:11])([N:6]([H:12])[H:13])([O:7][H:9])[H:10],42.317345000024034
MR_469386_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:7]\[H:11])(=[C:5](\[N:4]([H:12])[H:13])[H:14])[O:6][H:8]>>[C:1]1([O:6][H:8])=[C:2]([N:3]([H:9])[H:10])[N:7]([H:11])[C:5]1([N:4]([H:12])[H:13])[H:14],42.28785250002716
MR_582139_0,[C:1](/[C:2](=[N:6]\[O:5][H:8])[O:7][C:3](=[O:4])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:2]([O:4][C:3](=[O:7])[H:9])=[N:6]\[O:5][H:8])([H:10])([H:11])[H:12],43.59367999997616
MR_611438_1,[C:1]([C:2]([N:3]([C:4](/[N:6]=[N:7]/[H:11])=[N:8]\[H:12])[H:10])([H:15])[H:16])([O:5][H:9])([H:13])[H:14]>>[C:1]([C:2]([N:3](/[C:4]([N:6]([N:7]([H:9])[H:11])[H:13])=[N:8]\[H:12])[H:10])([H:15])[H:16])(=[O:5])[H:14],39.62850749999987
MR_608781_2,[C:1]([C:2]([C:4](=[O:8])[H:13])([H:11])[H:12])([O:5][C:3]([H:14])([H:15])[H:16])([O:6][H:9])[O:7][H:10]>>[C:1]([C:2]([C:4]([O:5][C:3]([H:14])([H:15])[H:16])([O:8][H:9])[H:13])([H:11])[H:12])(=[O:6])[O:7][H:10],33.10564499998932
MR_656066_0,[N:1]([O:2][O:3][H:6])([O:4][H:8])[O:5][H:7]>>[N:1]([O:2][O:4][H:8])([O:3][H:6])[O:5][H:7],61.87150000002077
MR_379271_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:9])([H:16])[H:17])[N:5]([N:6]=[O:7])[H:8]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:9])([H:16])[H:17])[O:7][N:6][N:5][H:8],48.29490999998456
MR_157815_0,[C:1]1([H:13])([H:14])[C:3](=[O:8])[N:2]([H:10])[C:5]([N:6]([H:11])[H:12])=[C:4]1[O:7][H:9]>>[C:1]1([H:13])([H:14])[C:3](=[O:8])[C:4]1(/[C:5](=[N:2]/[H:10])[N:6]([H:11])[H:12])[O:7][H:9],60.70184000001333
